US07799797B2
C-(6-Benzenesulfonyl-naphthalen-1-yl)-methylamine and 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide were added to methylene chloride and the reaction mixture was heated to reflux until all of the solvent evaporates. The reaction mixture is heated to 150° C. and then cooled. The resulting mixture is basified by dropwise addition of aqueous NaOH solution, and then purified by preparative liquid chromatography to give (6-benzenesulfonyl-naphthalen-1-ylmethyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine.

reactant | C-(6-Benzenesulfonyl-naphthalen-1-yl)-methylamine | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CN | C17H15NO2S
reactant | 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide | I.CSC=1NCCN1
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (6-benzenesulfonyl-naphthalen-1-ylmethyl)-(4,5-dihydro-1H-imidazol-2-yl)-amine | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)CNC=1NCCN1 | C20H19N3O2S
